US06087380
1-Methyl-2-[N-(4-amidinophenyl)-N-(n-butyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 25d from 1-methyl-2-[N-(4-cyanophenyl)-N-(n-butyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide, ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 62% of theory, C32H38N6O3 (554.7) ##EQU100##

reactant | 1-methyl-2-[N-(4-cyanophenyl)-N-(n-butyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide | C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CN(CCCC)C2=CC=C(C=C2)C#N)C)C=C1)CCC(=O)OCC | C32H35N5O3
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 1-Methyl-2-[N-(4-amidinophenyl)-N-(n-butyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Yield: 62% | Cl.C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CN(CCCC)C2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)OCC | InChI=1S/C32H38N6O3.ClH/c1-4-6-19-37(25-15-12-23(13-16-25)31(33)34)22-29-35-27-21-24(14-17-28(27)36(29)3)32(40)38(20-18-30(39)41-5-2)26-10-8-7-9-11-26;/h7-17,21H,4-6,18-20,22H2,1-3H3,(H3,33,34);1H
